US07259163B2
Prepared in a similar manner to that described for Intermediate 2, replacing 2-vinylpyrazine with 2-vinylquinoxaline.* The product was purified by SPE using cyclohexane:ethylacetate (2:1 v/v) as eluent to provide the title compound as an oil. *{2-Vinylquinoxaline was synthesized from quinoxaline-2-carboxaldehyde using the procedure described in Intermediate 10 for 5-vinylpyrimidine}.

reactant | quinoxaline-2-carboxaldehyde | N1=C(C=NC2=CC=CC=C12)C=O | C9H6N2O
reactant | 5-vinylpyrimidine | C(=C)C=1C=NC=NC1 | C6H6N2
product | 2-Vinylquinoxaline | C(=C)C1=NC2=CC=CC=C2N=C1 | C10H8N2
